US06114332
Cyclization of this as above, followed by immediate hydrolysis of the crude methyl 6-trifluoromethylacridine-4-carboxylate, gave 6-trifluoromethylacridine-4-carboxylic acid (81%), mp (MeOH/H2O) 244-246° C. 1H NMR [(CD3)2SO] δ 7.93 (t, J=7.9 Hz, 1 H, H-3), 7.98 (dd, J=8.9, 1.5 Hz, 1 H, ArH), 8.56 (d, J=8.8 Hz, 1 H, ArH), 8.60 (d, J=8.5 Hz, 1 H, ArH), 8.79 (dd, J=7.0, 1.1 Hz, 1 H, ArH), 8.86 (s, 1 H, H-5), 9.66 (s, 1 H, H-9).

reactant | methyl 6-trifluoromethylacridine-4-carboxylate | FC(C=1C=C2N=C3C(=CC=CC3=CC2=CC1)C(=O)OC)(F)F | C16H10F3NO2
solvent | MeOH H2O | CO.O
product | 6-trifluoromethylacridine-4-carboxylic acid | 81% | FC(C=1C=C2N=C3C(=CC=CC3=CC2=CC1)C(=O)O)(F)F | C15H8F3NO2
